US04293690
A mixture of 1.5 kg of 5-amino-1-β-D-ribofuranosylimidazole-4-carboxamide, 2.93 l of pyridine and 2.33 l of propionic anhydride was stirred at room temperature for 10 hours. The reaction mixture was concentrated under reduced pressure and 10 l of water was added thereto, followed by cooling. The precipitated crystals were collected by filteration, washed with water and dried to obtain 2.27 kg of 5-amino-1-(2,3,5-tri-O-propionyl-β-D-ribofuranosyl)imidazole-4-carboxamide. Melting point, 115°-116° C. A portion of the product was recrystallized from ethanol-diethyl ether to obtain the above compound as colorless needles. Melting point, 117°-118° C.

reactant | 5-amino-1-β-D-ribofuranosylimidazole-4-carboxamide | 1.5 kg | NC1=C(N=CN1[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)C(=O)N | C9H14N4O5
reactant | propionic anhydride | 2.33 l | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 2.93 l | N1=CC=CC=C1 | C5H5N
product | 5-amino-1-(2,3,5-tri-O-propionyl-β-D-ribofuranosyl)imidazole-4-carboxamide | 2.27 kg | NC1=C(N=CN1[C@H]1[C@H](OC(CC)=O)[C@H](OC(CC)=O)[C@H](O1)COC(CC)=O)C(=O)N | C18H26N4O8
